US07371751B2
2-[(2-Chloro-benzoyl)-(4-chloro-phenyl)-amino]-thiazole-4-carboxylic acid
A mixture of 1.97 g (4.68 mmol) 2-[(2-Chloro-benzoyl)-(4-chloro-phenyl)-amino]-thiazole-4-carboxylic acid ethyl ester, 2.5 ml acetic acid and 7.5 ml HCl conc. in 10 ml dioxane was heated to 60° C. for 2 h. The mixture was subjected to reversed phase HPLC purification eluting with an acetonitrile/water gradient to yield after evaporation of the product fractions 1.02 g (56%) of the title compound. MS (m/e): 393.1 (MH+, 100%)

reactant | 2-[(2-Chloro-benzoyl)-(4-chloro-phenyl)-amino]-thiazole-4-carboxylic acid ethyl ester | 4.68 mmol, 1.97 g | C(C)OC(=O)C=1N=C(SC1)N(C1=CC=C(C=C1)Cl)C(C1=C(C=CC=C1)Cl)=O | C19H14Cl2N2O3S
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
reactant | HCl | 7.5 ml | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-[(2-Chloro-benzoyl)-(4-chloro-phenyl)-amino]-thiazole-4-carboxylic acid | ClC1=C(C(=O)N(C=2SC=C(N2)C(=O)O)C2=CC=C(C=C2)Cl)C=CC=C1 | C17H10Cl2N2O3S
